US04312876
Cis-1-ethoxycarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine
To a stirred mixture of 8.73 g of trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol, 4.32 g of 4-fluorophenol, 10.1 g of triphenylphosphine and 350 ml of benzene is added dropwise, at 5° C. under nitrogen, a solution of 6.71 g of diethyl azodicarboxylate in 350 ml of benzene. After the addition is complete, the mixture is stirred overnight at room temperature. The reaction mixture is processed according to the procedure of Example 70 to give product as a gum.

reactant | trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol | 8.73 g | C(C)OC(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C14H19NO3
reactant | 4-fluorophenol | 4.32 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 10.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.71 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | Cis-1-ethoxycarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine | C(C)OC(=O)N1C[C@H]([C@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C20H22FNO3
